US05008263
(a) 5-Amino-1-(2-hydroxyethyl)-3-methyl-4-nitrosopyrazole
5-Amino-1-(2-hydroxyethyl)-3-methylpyrazole (Bull. soc. chim. France, 255 (1975)) (1.41 g, 10 mmoles) was dissolved in a mixture of water (7 ml) and glacial acetic acid (1.4 ml). Sodium nitrite (0.8 g, 11.6 mmoles) in water (7 ml) was added dropwise over 0.5 hour at 0° C. The red solution was stirred at 0° C., and after 1 hour, the solid which had precipitated was filtered off and dried in vacuo giving the title compound as a red solid (1.2 g, 70%).

reactant | 5-Amino-1-(2-hydroxyethyl)-3-methylpyrazole | 10 mmoles, 1.41 g | NC1=CC(=NN1CCO)C | C6H11N3O
reactant | Sodium nitrite | 11.6 mmoles, 0.8 g | N(=O)[O-].[Na+]
solvent | water | 7 ml | O | H2O
solvent | acetic acid | 1.4 ml | C(C)(=O)O | C2H4O2
solvent | water | 7 ml | O | H2O
product | 5-Amino-1-(2-hydroxyethyl)-3-methyl-4-nitrosopyrazole | 1.2 g, 70% | NC1=C(C(=NN1CCO)C)N=O | C6H10N4O2
